US08735414B2
Into a solution of 5-fluoro-6-methyl-1H-indole (1.9 g, 12.8 mmol) in DMF (13 mL) at −78° C. was added chlorosulfonyl isocyanate (1.33 mL, 15.3 mmol). After addition the cooling bath was removed and the mixture was allowed to warm to room temperature. The mixture was then poured into ice water, filtered and washed with water and brine. The cake was then dissolved in acetonitrile and concentrated to give 5-fluoro-6-methyl-1H-indole-3-carbonitrile (2.2 g, 100%).

reactant | 5-fluoro-6-methyl-1H-indole | 12.8 mmol, 1.9 g | FC=1C=C2C=CNC2=CC1C | C9H8FN
reactant | chlorosulfonyl isocyanate | 15.3 mmol, 1.33 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-6-methyl-1H-indole-3-carbonitrile | 2.2 g, 100% | FC=1C=C2C(=CNC2=CC1C)C#N | C10H7FN2
